US04180569
4,4'-Azodipyridine
Sodium hypochlorite, 1000 ml (5.25%, 0.72 mole) was added dropwise to a cold solution (5° C.) of 50 g (0.5 mole) of 4-aminopyridine in 400 ml water. The sodium hypochlorite was added at such a rate as to maintain the reaction temperature at less than 10° C. After the addition was completed, the reactants were stirred for an additional 11/2 hours at ~10° C. The resultant suspension was filtered and air dried to leave a crude brown solid. Recrystallization from methylcyclohexane yielded light orange crystals of 4,4'-azodipyridine, having a m.p. of 87°-89° C.

reactant | Sodium hypochlorite | Cl[O-].[Na+]
reactant | 4-aminopyridine | 0.5 mole, 50 g | NC1=CC=NC=C1 | C5H6N2
solvent | water | 400 ml | O | H2O
product | 4,4'-Azodipyridine | N(=NC1=CC=NC=C1)C1=CC=NC=C1 | C10H8N4
